US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-6-(dimethylamino)-2-methyl-2,3-dihydro-isoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-[5-(dimethylamino)-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl]propionaldehyde (0.2 g) was coupled to 4-(2-oxoperhydropyrimidine-1-yl)piperidine (0.093 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.085 g); MS: m/z=558(M+1); NMR: 1.60 (broad,3), 1.78 (broad,3), 2.14 (broad,3), 2.73 (broad,3), 3.02 (m,3), 3.57 (m,3), 4.37 (broad,1), 4.74 (broad,1), 7.27 (m,6). Analysis for C29H37Cl2N5O2.2.0 HCl.2.0 H2O: Calculated: C, 52.18; H, 6.49, N, 10.49; Found: C, 51.94; H, 6.71; N, 10.27.

reactant | 3-(3,4-Dichlorophenyl)-3-[5-(dimethylamino)-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl]propionaldehyde | 0.2 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC(=CC=C12)N(C)C)=O)C | C20H20Cl2N2O2
reactant | 4-(2-oxoperhydropyrimidine-1-yl)piperidine | 0.093 g | O=C1N(CCCN1)C1CCNCC1 | C9H17N3O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-6-(dimethylamino)-2-methyl-2,3-dihydro-isoindol-1-one hydrochloride | 0.085 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)N1C(NCCC1)=O)C1N(C(C2=CC(=CC=C12)N(C)C)=O)C | InChI=1S/C29H37Cl2N5O2.ClH/c1-33(2)21-6-7-23-24(18-21)28(37)34(3)27(23)22(19-5-8-25(30)26(31)17-19)11-16-35-14-9-20(10-15-35)36-13-4-12-32-29(36)38;/h5-8,17-18,20,22,27H,4,9-16H2,1-3H3,(H,32,38);1H
